US07482349B2
Step b) Preparation of 4-(2-Fluoroethoxy)benzoic acid
To a solution of methyl 4-(2-fluoroethoxy)benzoate (7.7 g, 38.85 mmol) in dioxane (100 mL) was added LiOH (2M, 39 mL). The reaction mixture was stirred at room temperature for 18 hours, and then concentrated in vacuo. The residue was dissolved in H2O (30 ml) and extracted with ether. Under cooling the aqueous was acidified with HCl (6N) and extracted with CHCl3. The organic extracts were dried over MgSO4. Evaporation and recrystallzation from ethyl acetate and methylene chloride gave the title compound as a white solid (5 g, 71% yield); 1H NMR (400 MHZ, DMSO-d6) δ 4.28 (m, 1H), 4.35 (m, 1H,) 4.68 (m, 1H), 4.80 (m, 1H), 7.04 (d, 2H), 7.89 (d, 2H); MS m/e (M−H)− 183.1; mp 203° C.

reactant | methyl 4-(2-fluoroethoxy)benzoate | 38.85 mmol, 7.7 g | FCCOC1=CC=C(C(=O)OC)C=C1 | C10H11FO3
reactant | LiOH | 2M, 39 mL | [Li+].[OH-]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Fluoroethoxy)benzoic acid | 5 g, 71% yield | FCCOC1=CC=C(C(=O)O)C=C1 | C9H9FO3
